US08309542B2
(b) 7-methoxymethyl-4,5-dihydro-thieno[2,3-c]pyridine
15.6 g (78.3 mmol) 2-methoxy-N-(2-thiophen-3-yl-ethyl)-acetamide are dissolved in 350 ml chloroform and combined with 35.8 ml (391.4 mmol) phosphorus oxychloride while cooling with an ice bath. The ice bath is removed and the mixture is refluxed for 5 hours. Then it is carefully added to 600 ml of warm sodium hydroxide solution (4N) and the aqueous phase is extracted three times with ethyl acetate. The combined organic phases are dried on sodium sulphate, filtered and evaporated down i. vac. The crude product is purified by flash chromatography on silica gel (eluant DCM/methanol 98:2→95:5).

reactant | 2-methoxy-N-(2-thiophen-3-yl-ethyl)-acetamide | 78.3 mmol, 15.6 g | COCC(=O)NCCC1=CSC=C1 | C9H13NO2S
reactant | phosphorus oxychloride | 391.4 mmol, 35.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-methoxymethyl-4,5-dihydro-thieno[2,3-c]pyridine | COCC1=NCCC2=C1SC=C2 | C9H11NOS
